US05646308
A mixture of 5.6 g of 4-bromo-2-fluoromethyl-2-methyl-6-nitro-2H-1-benzopyran, 1.84 g of cuprous cyanide and 50 ml of N,N-dimethylformamide was refluxed with heating for 5 hours under a nitrogen atmosphere. When aqueous HCl solution was added to the mixture under ice-cooling, crystals were separated out. The crystals were collected by filtration, washed with water and dissolved in methylene chloride. After it washed with water and dried, the solvent was evaporated off. The resultant residue was purified with silica gel column chromatography (developing solution: CH2Cl2) to obtain 3.27 g of 4-cyano-2-fluoromethyl-2-methyl-6-nitro-2H-1-benzopyran with a melting point of 169°-171° C.

reactant | 4-bromo-2-fluoromethyl-2-methyl-6-nitro-2H-1-benzopyran | 5.6 g | BrC1=CC(OC2=C1C=C(C=C2)[N+](=O)[O-])(C)CF | C11H9BrFNO3
reactant | HCl | Cl | ClH
reactant | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 4-cyano-2-fluoromethyl-2-methyl-6-nitro-2H-1-benzopyran | 3.27 g | C(#N)C1=CC(OC2=C1C=C(C=C2)[N+](=O)[O-])(C)CF | C12H9FN2O3
